US06596731B2
2-(3-Bromo-4-fluoro-phenyl)-imidazo[1,2-a]pyridine
In analogy to the method as described in J. Heterocyclic Chem. 1988, 25, 129-137, 2-Bromo-1-(3-bromo-4-fluoro-phenyl)-ethanone (89 mg, 0.3 mmol) and 2-Aminopyridine (28 mg, 0.3 mmol) were dissolved in 2 ml of acetone and shaken overnight. The solvent was evaporated and and the residue was dissolved in 1 ml of DMF. The title compound (m/e=292.6, [M+H+]) was isolated from this solution by HPLC chromatography (YMC CombiPrep C18 column 50×20 mm, solvent gradient 10-95% CH3CN in 0.1% TFA(aq) over 6.0 min, λ=230 nm, flow rate 40 ml/min).

reactant | 2-Bromo-1-(3-bromo-4-fluoro-phenyl)-ethanone | 0.3 mmol, 89 mg | BrCC(=O)C1=CC(=C(C=C1)F)Br | C8H5Br2FO
reactant | 2-Aminopyridine | 0.3 mmol, 28 mg | NC1=NC=CC=C1 | C5H6N2
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | 2-(3-Bromo-4-fluoro-phenyl)-imidazo[1,2-a]pyridine | BrC=1C=C(C=CC1F)C=1N=C2N(C=CC=C2)C1 | C13H8BrFN2
